US04115405
6-Nitro-4-chromanone Oxime
A solution of 79 g (1.14 mole) of hydroxylamine hydrochloride in 770 ml of H2O, contained in a 2 l. Erlenmeyer flask, was treated with 619 ml of 10% NaOH, 150 g (0.78 mole) of 6-nitro-4-chromanone and enough ethanol (750 ml) to produce a solution at the boiling point. The reaction mixture was boiled for 25 min., cooled to 50° over 2 hrs., and filtered. The filtrate was refrigerated overnight and filtered. The tan crystalline solid was washed with 200 ml of ethanol and dried, m.p. 173°-178°. Yield: 60 g (37%).

reactant | hydroxylamine hydrochloride | 1.14 mole, 79 g | Cl.NO
reactant | NaOH | 619 ml | [OH-].[Na+]
reactant | 6-nitro-4-chromanone | 0.78 mole, 150 g | [N+](=O)([O-])C=1C=C2C(CCOC2=CC1)=O | C9H7NO4
reactant | ethanol | 750 ml | C(C)O | C2H6O
solvent | H2O | 770 ml | O | H2O
product | 6-Nitro-4-chromanone Oxime | [N+](=O)([O-])C=1C=C2C(CCOC2=CC1)=NO | C9H8N2O4
